US07544672B2
5-[2-Amino-4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-pent-4-ynoic acid diethylamide
A mixture of 5-[2-amino-4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-pent-4-ynoic acid (see previous example, 25 mg), Et2NH (100 μL), EDCI (87 mg), HOBt (50 mg), and DMF (1 mL) was stirred at rt for 16 h. Preparative plate chromatography (EtOAc/hexane 2:1) gave the title compound. tR=5.33 min. 1H NMR (CDCl3) δ 8.23 (s, 1H), 7.01 (s, 1H), 5.32 (s, 2H), 4.98 (s, 2H), 3.76 (s, 3H), 3.42 (q, 2H), 3.33 (q, 2H), 2.78 (dd, 2H), 2.64 (dd, 2H), 2.27 (s, 3H), 2.18 (s, 3H), 1.20 (t, 3H), 1.13 (t, 3H).

reactant | 5-[2-amino-4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-pent-4-ynoic acid | 25 mg | NC=1N=C(C2=C(N1)N(C=C2C#CCCC(=O)O)CC2=NC=C(C(=C2C)OC)C)Cl | C20H20ClN5O3
reactant | Et2NH | 100 μL | N(CC)CC | C4H11N
reactant | EDCI | 87 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 50 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-[2-Amino-4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-pent-4-ynoic acid diethylamide | C(C)N(C(CCC#CC1=CN(C=2N=C(N=C(C21)Cl)N)CC2=NC=C(C(=C2C)OC)C)=O)CC | C24H29ClN6O2
